US04351950
A solution of 3.32 g of t-butylhydroquinone in 15 ml of dimethylformamide is added dropwise to a suspension of 2.4 g of 50% sodium hydride in 25 ml of dimethylformamide, and allowed to stir for 1/2 an hour at room temperature. 11.2 g of methyl 5-bromo-2,2-dimethylpentanoate is added followed by heating the mixture at 60°-70° C. for 6 hrs. Dimethylformamide is distilled off, the residue is poured into water and the organic material is extracted with ether. The ether extract is washed with water until neutral, dried over anhydrous magnesium sulfate and the ether is evaporated. The residue is purified by distillation yielding the product, dimethyl 5,5'-[[2-(1,1-dimethylethyl)1,4-phenylene]bis(oxy)]bis[2,2-dimethylpentanoate] b.p. 200° C. at 0.5 mm of Hg; yield 4 g.

reactant | t-butylhydroquinone | 3.32 g | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
reactant | sodium hydride | 2.4 g | [H-].[Na+]
reactant | methyl 5-bromo-2,2-dimethylpentanoate | 11.2 g | BrCCCC(C(=O)OC)(C)C | C8H15BrO2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | dimethyl 5,5'-[[2-(1,1-dimethylethyl)1,4-phenylene]bis(oxy)]bis[2,2-dimethylpentanoate] | CC(C)(C)C1=C(C=CC(=C1)OCCCC(C(=O)OC)(C)C)OCCCC(C(=O)OC)(C)C | C26H42O6
